US08217069B2
A solution of ethyl 4-chloro-6-methylpyrimidine-5-carboxylate (0.3 g), 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (0.49 g) and N,N-diisopropylethylamine (0.26 mL) in acetonitrile (4.5 mL) was stirred at 130° C. in a reaction vessel equipped with a reflux condenser for 1 day. To the reaction mixture was added water (3 mL), and the resulting mixture was stirred at room temperature for 40 minutes. The insoluble material was collected by filtration. The collected material was washed with water and diethyl ether, and dried under reduced pressure to give ethyl 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylate (0.71 g). The obtained ethyl 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylate (0.2 g) was dissolved in tetrahydrofuran (1.6 mL)−methanol (1.2 mL). To the solution was added 2 mol/L aqueous sodium hydroxide solution (1.2 mL), and the mixture was stirred at 60° C. for 30 minutes. To the reaction mixture was added 1 mol/L hydrochloric acid (3 mL), and the precipitated crystals were collected by filtration. The collected crystals were washed with water, and dried under reduced pressure to give 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylic acid (0.1 g). To this material were added 1,4-dioxane (4.5 mL), triethylamine (0.12 mL) and diphenylphosphoryl azide (0.071 mL), and the mixture was stirred at room temperature for 1 hour, and then heated at reflux for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=9/1) to give the title compound (0.1 g).

reactant | ethyl 4-chloro-6-methylpyrimidine-5-carboxylate | 0.3 g | ClC1=NC=NC(=C1C(=O)OCC)C | C8H9ClN2O2
reactant | 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline | 0.49 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H14ClF2NO3
reactant | N,N-diisopropylethylamine | 0.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | 3 mL | O | H2O
solvent | acetonitrile | 4.5 mL | C(C)#N | C2H3N
product | ethyl 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylate | 0.71 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)NC1=NC=NC(=C1C(=O)OCC)C | C23H22ClF2N3O5
